US06887877B2
To a stirred solution of 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-(4-tributylstannanyl-benzyl)-amino]-3-phenyl-propionic acid methyl ester (100 mg. 0.13 mmol.) in toluene (3 ml.) were added P(Ph3)4Pd (6 mg. 0.039eq.), CuBr (2 mg.) and 5-Bromo-thiophene-2-carboxylic acid methyl ester (26.5 mg, 0.12 mmol.) under nitrogen. The reaction mixture was stirred and heated to reflux during 5 hrs. The progress of the reaction was monitored by TLC. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by silica plate for purification using 80% hexane 20% EtOAc afforded 5-(4-{[(1-Methoxycarbonyl-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-thiophene-2-carboxylic acid methyl ester in 41% yield: 1HNMR (Varian 400 MHz, CDCl3) δ8.67(d, 1H, HPh), 8.35 (d, 2H, thiopheneH), 8.10(m, 6H, HPh), 8.00(d, 2H, thiopheneH), 7.38(s, 1H, MTRH), 5.72(m, 3H, NCH2Ph, CHCH2), 4.82(s, 3H, OCH3), 4.68(s, 3H, COOCH3), 4.29(s, 3H, COOCH3), 4.10 (m, 1H, CHCH2), 3.85 (m, 1H, CHCH2), 3.57(s, 3H, ArCH3), 3.40(s, 3H, ArCH3), 3.0(s, 3H, ArCH3) ppm. MS 622.6 (M+).

reactant | 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-(4-tributylstannanyl-benzyl)-amino]-3-phenyl-propionic acid methyl ester | 0.13 mmol, 100 mg | COC(C(CC1=CC=CC=C1)N(CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O
reactant | 5-Bromo-thiophene-2-carboxylic acid methyl ester | 0.12 mmol, 26.5 mg | COC(=O)C=1SC(=CC1)Br | C6H5BrO2S
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-{[(1-Methoxycarbonyl-2-phenyl-ethyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-thiophene-2-carboxylic acid methyl ester | 41% yield | COC(=O)C=1SC(=CC1)C1=CC=C(C=C1)CN(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C(CC1=CC=CC=C1)C(=O)OC | C33H35NO7S2
